US04772615
Ethanol, 2-(5H-dibenzo[a,d]cyclohepten-5-yloxy)-, as prepared in Part B above (2 g) is dissolved in 40 ml of dry tetrahydrofuran to which triethylamine (1.7 g) is added at once. Methanesulfonyl chloride (0.014 g) is added dropwise and the mixture stirred for 20 min after which it is filtered and evaporated. Then the methanesulfonate is dissolved in 80 ml of 2-butanone to which ethyl 3-piperidinecarboxylate (1.9 g) is added at once. 3.3 g of K2CO3 are added and the mixture refluxed overnight, then cooled, filtered and evaporated. The remaining oil is chromatographed on dry silica using 70% hexane: 30% ethyl acetate: 2% triethylamine as eluent. 3.4 g (75% yield) of 3-piperidinecarboxylic acid, 1-[2-[5H-dibenzo[a,d]cyclohepten-5-yloxy)ethyl]], ethyl ester is obtained.

reactant | Ethanol | C(C)O | C2H6O
reactant | triethylamine | 1.7 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.014 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-piperidinecarboxylic acid | 3.4 g, 75% yield | N1CC(CCC1)C(=O)O | C6H11NO2
